US08114877B2
b) 4-Amino-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid ethyl ester
A solution comprising 4-carbamoyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid ethyl ester (step a) (2.04 g, 7.36-mmol) and bis(trifluoroacetoxy) iodobenzene (3.80 g, 8.83 mmol) in acetonitrile (13 ml) is treated with water (5 ml) and heated to 65° C. for 30 hours. The solvent is partially removed in vacuo and the resulting solution is acidified to pH1 using 12 M HCl. The solution is extracted with ethyl acetate and this organic portion is discarded. The aqueous portion is basified to pH 8-9 using 2M potassium carbonate solution and then extracted with ethyl acetate and dichloromethane. The organic portions are washed with brine, dried (Na2SO4) and concentrated in vacuo. The resulting residue is triturated with diethyl ether followed by diethyl ether/ethyl acetate (1:1, 5×0.7 ml) and dried in vacuo to yield the title compound as an off-white solid. MS (ES+) m/e 250 (MH+)

reactant | 4-carbamoyl-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CC(=NC1)N1CCC(CC1)C(N)=O | C14H19N3O3
reactant | bis(trifluoroacetoxy) iodobenzene | 8.83 mmol, 3.80 g | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | water | 5 ml | O | H2O
reactant | acetonitrile | 13 ml | C(C)#N | C2H3N
product | 4-Amino-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=CC(=NC1)N1CCC(CC1)N | C13H19N3O2
